// ramp_gen: 12-bit ramp code generator (up-ramp from 0 to 15)
simulator lang=spectre
global 0

ahdl_include "ramp_gen.va"

// Clock: 100ns period
Vclk (clk_dtc 0) vsource type=pulse val0=0 val1=0.9 period=100n delay=5n rise=1n fall=1n width=48n

// Reset: deassert at 20ns (active-low)
Vrst_n (rst_n 0) vsource type=pwl \
        wave=[0 0 19n 0 20n 0.9 3000n 0.9]

// DUT: 12-bit ramp, up from 0 to 127, step=1, start after 2 cycles
// code[11:0] MSB-first: code_11 code_10 ... code_0
IDUT (clk_dtc rst_n \
      code_11 code_10 code_9 code_8 code_7 code_6 code_5 code_4 \
      code_3 code_2 code_1 code_0) \
      ramp_gen DIRECTION=1 MIN_CODE=0 MAX_CODE=127 STEP_SIZE=1 \
      N_CYCLE_START=2 UPDATE_DIV=1 vh=0.9 vl=0.0 vth=0.45

tran tran stop=15000n maxstep=1n
save clk_dtc rst_n \
     code_11 code_10 code_9 code_8 code_7 code_6 code_5 code_4 \
     code_3 code_2 code_1 code_0
